US07129238B2
To a solution of 2-biphenyl-4-yl-2-hydroxy-propionic acid (CAS-6244-54-8, 943 mg) in THF (10 ml), stirred at 0° C. was added NaH (60% in mineral oil, 342 mg). After 50 min, ethyl iodide (0.69 ml) was added and the mixture was stirred at rt for 14 h. DMF (10 ml) was added. After 2 days, 47 mg NaH and 0.16 ml ethyl iodide were added subsequently. In the course of three weeks, a total of 653 mg NaH and 1.32 ml ethyl iodide were added. Water was added and the mixture was extracted with EtOAc (2×). The organic phase was washed with water, dried, filtered and evaporated. The crude product was purified by flash chromatography (EtOAc/cyclohexane 5:95=>1:4) to give (RS)-2-biphenyl-4-yl-2-ethoxy-propionic acid ethyl ester (276 mg) as a light yellow oil. MS 298.1 ([M]+)

reactant | 2-biphenyl-4-yl-2-hydroxy-propionic acid | 943 mg | C1(=CC=C(C=C1)C(C(=O)O)(C)O)C1=CC=CC=C1 | C15H14O3
reactant | NaH | 342 mg | [H-].[Na+]
reactant | ethyl iodide | 0.69 ml | C(C)I | C2H5I
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | NaH | 47 mg | [H-].[Na+]
reactant | ethyl iodide | 0.16 ml | C(C)I | C2H5I
reactant | NaH | 653 mg | [H-].[Na+]
reactant | ethyl iodide | 1.32 ml | C(C)I | C2H5I
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | (RS)-2-biphenyl-4-yl-2-ethoxy-propionic acid ethyl ester | 276 mg | C(C)OC(C(C)(OCC)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H22O3
